US05232940
A stirred mixture of 5-amino-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole (3.89 g) and bromoform (13 ml) was treated with tert-butyl nitrite (2.26 ml) at room temperature. After 15 minutes the mixture was heated to 50° C. for 1 hour, and evaporated in vacuo to yield a red oil. This was purified by chromatography on silica (Merck, 40-230 mesh, 0.7 kg cm-2) eluting with a mixture of dichloromethane and petroleum ether (1:2) to furnish 5-bromo-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole as a fawn solid m.p. 85°-87° C. (3.7 g).

reactant | 5-amino-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | 3.89 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)C#N | C12H4Cl2F6N4
reactant | bromoform | 13 ml | C(Br)(Br)Br | CHBr3
reactant | tert-butyl nitrite | 2.26 ml | N(=O)OC(C)(C)C | C4H9NO2
product | 5-bromo-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | 3.7 g | BrC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)C#N | C12H2BrCl2F6N3
